US06316444B1
Step C: 2-[1-(1-(Benzyloxycarbonyl)-4-(N-naphth-1-yl-carbamoyl)-piperazine-2-yl)-ethylamino]-4-(indol-1-yl)pyrimidine
The title compound was prepared from 2-[1-(1-(benzyloxycarbonyl)-4-(tert-butyloxycarbonyl)-piperazine-2-yl)-ethylamino]-4-(indol-1-yl)pyrimidine (68 mg) and naphthyl isocyanate (24 mg) according to the procedure described in EXAMPLE 14, Step F. Mass spectrum (ESI) 626.2 (M+1).

reactant | 2-[1-(1-(benzyloxycarbonyl)-4-(tert-butyloxycarbonyl)-piperazine-2-yl)-ethylamino]-4-(indol-1-yl)pyrimidine | 68 mg | C(C1=CC=CC=C1)OC(=O)N1C(CN(CC1)C(=O)OC(C)(C)C)C(C)NC1=NC=CC(=N1)N1C=CC2=CC=CC=C12 | C31H36N6O4
reactant | naphthyl isocyanate | 24 mg | C1(=CC=CC2=CC=CC=C12)N=C=O | C11H7NO
product | 2-[1-(1-(Benzyloxycarbonyl)-4-(N-naphth-1-yl-carbamoyl)-piperazine-2-yl)-ethylamino]-4-(indol-1-yl)pyrimidine | C(C1=CC=CC=C1)OC(=O)N1C(CN(CC1)C(NC1=CC=CC2=CC=CC=C12)=O)C(C)NC1=NC=CC(=N1)N1C=CC2=CC=CC=C12 | C37H35N7O3
